US08748624B2
STEP B: methyl 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinate
Solid NaBH(OAc)3 (491 mg, 2.3 mmol) was added to a DCE solution (4 mL) of methyl 5-(5-fluoro-2-formylphenyl)picolinate (300 mg, 1.2 mmol), 4-bromo-3-fluoroaniline (242 mg, 1.3 mmol), and AcOH (0.27 mL, 4.6 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 2.3 mmol, 491 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | methyl 5-(5-fluoro-2-formylphenyl)picolinate | 1.2 mmol, 300 mg | FC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)C=O | C14H10FNO3
reactant | 4-bromo-3-fluoroaniline | 1.3 mmol, 242 mg | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | AcOH | 4.6 mmol, 0.27 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
product | methyl 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinate | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)OC)F | C20H15BrF2N2O2
